US04539320
2-methyl-1-oxo-3-thiamorpholinone (Compound 4)
To a solution of 9 g of 2-methyl-3-thiamorpholinone in a mixture of 50 cm3 of formic acid and 10 cm3 of acetic anhydride, cooled to 0° C., 7 cm3 of H2O2 at 110 vol. are slowly added. After an 18 hour reaction period, the solution is concentrated under reduced pressure. The resulting product is dissolved in chloroform and the chloroform solution is deposited on a silica gel column.

reactant | 2-methyl-3-thiamorpholinone | 9 g | CC1C(NCCS1)=O | C5H9NOS
reactant | H2O2 | 7 cm3 | OO | H2O2
solvent | formic acid | 50 cm3 | C(=O)O | CH2O2
solvent | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-1-oxo-3-thiamorpholinone | CC1C(NCCS1=O)=O | C5H9NO2S
